US04584303
A mixture of 1 g of 4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine, 0.12 sodium iodine, 3.5 g of sodium carbonate, 0.47 g of 2-chlroethylbenzene and 50 ml of methyl isobutyl ketone is maintained at reflux for six days. The mixture is cooled, diluted with 500 ml of toluene and washed three times with 20 ml of water. The organic phase is dried over 20 g of sodium sulfate. The solid is filtered off and the solvent flash evaporated to give an oil. The oil is purified using a Waters Associates Prep LC/System 500 and a PrePAK-500/SILICA column (ethyl acetate). A yield of 0.51 g of 1-(2-phenylethyl)-4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine is isolated, combined with 0.06 g of oxalic acid in methanol and heated to reflux. Methyl t-butyl ether is added dropwise to the refluxing solution until a cloud point is reached. Additional methonol is added to the cloudy refluxing solution until it clears. The solution is cooled and the precipitate collected via filtration. The precipitate is dried under vacuo to give 0.46 g of 1-(2-phenylethyl)-4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidinium oxalate, m.p. 170°-172° C. (decomp.).

reactant | 4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine | 1 g | COC(=O)C1(CCNCC1)N(C(C)=O)OCC1=CC=CC=C1 | C16H22N2O4
reactant | sodium iodine | [I].[Na]
reactant | sodium carbonate | 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl isobutyl ketone | 50 ml | C(C(C)C)C(=O)C | C6H12O
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-phenylethyl)-4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine | yield of 0.51 g | C1(=CC=CC=C1)CCN1CCC(CC1)(N(C(C)=O)OCC1=CC=CC=C1)C(=O)OC | C24H30N2O4
